US07700641B2
Synthesis of 5-[(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)methyl]-2-furonitrile
Following the procedure described in EXAMPLE 10.79, and making non-critical variations using 1′-[(5-bromo-2-furyl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one to replace 1′-[(5-bromo-2-thienyl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one, the title compound was obtained (44%) as a colorless solid: mp 167-169° C.; 1H NMR (300 MHz, CDCl3) δ 7.34-7.27 (m, 1H), 7.21-7.17 (m, 1H), 7.12-7.08 (m, 1H), 7.07-7.03 (m, 1H), 6.95 (d, 1H), 6.51 (s, 1H), 6.44 (d, 1H), 6.08 (s, 1H), 5.86 (q, 2H), 4.96 (ABq, 2H), 4.78 (ABq, 2H); MS (ES+) m/z 387.2 (M+1).

reactant | 1′-[(5-bromo-2-furyl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | BrC1=CC=C(O1)CN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C21H14BrNO5
reactant | 1′-[(5-bromo-2-thienyl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | BrC1=CC=C(S1)CN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C21H14BrNO4S
product | 5-[(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)methyl]-2-furonitrile | O=C1N(C2=CC=CC=C2C12COC=1C2=CC2=C(OCO2)C1)CC1=CC=C(O1)C#N | C22H14N2O5
